US07727749B2
Two 125 mL jacketed reaction vessels maintained at 30° C. were each charged with 2-isobutyl-succinonitrile (6.81 g), NIT-102 C2 (1.70 g) and 118.2 mL of reaction buffer. After stirring for 24 h, the product mixtures were decanted, leaving the enzyme catalyst in the reaction vessels. Reaction buffer (20 mL) was added to the each reaction vessel, stirred for approximately 2 min., and then decanted and added to the product mixtures. Reactions were repeated by adding 2-isobutyl-succinonitrile (6.81 g) and reaction buffer (118.2 mL) to each reaction vessel and stirring the reaction mixtures for 24 h. After four reactions were completed in each vessel (total of eight batch reactions), the product mixtures were combined and extracted with MTBE (3×500 mL). The MTBE extracts were removed and the aqueous part adjusted to pH 2.1 with phosphoric acid and extracted with MTBE (2×500 mL). The MTBE extract of the acidified aqueous part was concentrated under vacuum to leave an oil, which was treated with water (100 mL) and KOH (8.5 g). The resulting solution was concentrated under vacuum to give 24.2 g (31.3%) of potassium (S)-3-cyano-5-methylhexanoate. Methyl (S)-3-cyano-5-methylhexanoate was prepared from potassium (S)-3-cyano-5-methylhexanoate and analyzed by chiral GC to reveal an enantiomeric purity of 99.1% e.e.

reactant | 2-isobutyl-succinonitrile | 6.81 g | C(C(C)C)C(C#N)CC#N | C8H12N2
reactant | KOH | 8.5 g | [OH-].[K+]
reactant | water | 100 mL | O | H2O
product | potassium (S)-3-cyano-5-methylhexanoate | 24.2 g, 31.3% | C(#N)[C@H](CC(=O)[O-])CC(C)C.[K+] | InChI=1S/C8H13NO2.K/c1-6(2)3-7(5-9)4-8(10)11;/h6-7H,3-4H2,1-2H3,(H,10,11);/q;+1/p-1/t7-;/m0./s1
